US04521607
N-Benzyl-N-(5,6-dimethoxy-1-indanyl)glycine hydrochloride (14 g) is dissolved in 300 ml of ethanol, 3.0 g of 5% palladium-carbon is added and catalytic reduction is carried out at ordinary temperature and pressure. After absorption of the calculated amount of hydrogen, the catalyst is filtered off, and the ethanol is distilled off under reduced pressure. The residue is dissolved in 10 ml of water and adjusted to pH 7.0 with aqueous ammonia. The crystalline precipitates are collected by filtration, washed with a small amount of water, and dried, to give 8.0 g of N-(5,6-dimethoxy-1-indanyl)glycine as colorless needles. Melting point: 213°-216° C.

reactant | N-Benzyl-N-(5,6-dimethoxy-1-indanyl)glycine hydrochloride | 14 g | Cl.C(C1=CC=CC=C1)N(CC(=O)O)C1CCC2=CC(=C(C=C12)OC)OC
solvent | ethanol | 300 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 3.0 g | [C].[Pd]
product | N-(5,6-dimethoxy-1-indanyl)glycine | 8.0 g | COC=1C=C2CCC(C2=CC1OC)NCC(=O)O | C13H17NO4
